US08648066B2
A solution of 3-nitro-5-(2,3,4,5-tetrahydro-1,4-benzoxazepin-7-yl)pyridin-2-amine dihydrochloride (540 mg, 1.50 mmol), 4-chloro-6,6-dimethyl-5,6,7,8-tetrahydroquinazoline (270 mg, 1.37 mmol, reagent preparation 3), and diisopropylethylamine (970 mg, 7.49 mmol) in N-methylpyrrolidinone (3 mL) was stirred at 120° C. for 18 h. After cooling to room temperature ethyl acetate (100 mL) was added, the formed precipitate was filtered off, the organic filtrate was washed with saturated sodium bicarbonate (50 mL), water (2×50 mL), and brine (50 mL), dried over sodium sulfate, filtered and concentrated to afford crude 5-[4-(6,6-dimethyl-5,6,7,8-tetrahydroquinazolin-4-yl)-2,3,4,5-tetrahydro-1,4-benzoxazepin-7-yl]-3-nitropyridine-2-amine (0.5 g) as a brown solid which was used in the next step without further purification. MS (EI) for C24H26N6O3: 447 (MH+).

reactant | 3-nitro-5-(2,3,4,5-tetrahydro-1,4-benzoxazepin-7-yl)pyridin-2-amine dihydrochloride | 1.50 mmol, 540 mg | Cl.Cl.[N+](=O)([O-])C=1C(=NC=C(C1)C=1C=CC2=C(CNCCO2)C1)N
reactant | 4-chloro-6,6-dimethyl-5,6,7,8-tetrahydroquinazoline | 1.37 mmol, 270 mg | ClC1=NC=NC=2CCC(CC12)(C)C | C10H13ClN2
reactant | diisopropylethylamine | 7.49 mmol, 970 mg | C(C)(C)N(CC)C(C)C | C8H19N
reactant | ethyl acetate | 100 mL | C(C)(=O)OCC | C4H8O2
solvent | N-methylpyrrolidinone | 3 mL | CN1C(CCC1)=O | C5H9NO
product | 5-[4-(6,6-dimethyl-5,6,7,8-tetrahydroquinazolin-4-yl)-2,3,4,5-tetrahydro-1,4-benzoxazepin-7-yl]-3-nitropyridine-2-amine | 0.5 g | CC1(CC=2C(=NC=NC2CC1)N1CCOC2=C(C1)C=C(C=C2)C=2C=C(C(=NC2)N)[N+](=O)[O-])C | C24H26N6O3
